US05780642
A solution of benzoyl chloride (0.2 g) in dichloromethane (3 ml) was added dropwise to a solution of N-{1-[4-(2-aminoethyl)phenyl]-1-methylethyl}-3-(imidazol-1-yl)propylamine (0.4 g) in dichloromethane (7 ml) with stirring at 0° C. The mixture was treated in a similar manner to Example 55 to give N-[2-(4-{1-[3-(imidazol-1-yl)propylamino]-1-methylethyl}phenyl)-ethyl]benzamide as an oil.

reactant | benzoyl chloride | 0.2 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | N-{1-[4-(2-aminoethyl)phenyl]-1-methylethyl}-3-(imidazol-1-yl)propylamine | 0.4 g | NCCC1=CC=C(C=C1)C(C)(C)NCCCN1C=NC=C1 | C17H26N4
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | N-[2-(4-{1-[3-(imidazol-1-yl)propylamino]-1-methylethyl}phenyl)-ethyl]benzamide | N1(C=NC=C1)CCCNC(C)(C)C1=CC=C(C=C1)CCNC(C1=CC=CC=C1)=O | C24H30N4O
